US08071592B2
(f) 1,1-Dimethylethyl (1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate
A solution of ethyl N-[2-({2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}amino)-6-(methyloxy)-3-pyridinyl]glycinate (1.2 g, 2.7 mmol) in toluene (400 ml) was heated to reflux under argon for 24 hours. This solution was treated at rt with manganese dioxide (2.0 g, 23 mmol). After 7 h the mixture was filtered, washing with warm toluene then evaporated affording a dark oil. Chromatography on silica eluting with 0-100% ethyl acetate in hexane afforded a yellow solid (470 mg, 43%).

reactant | ethyl N-[2-({2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}amino)-6-(methyloxy)-3-pyridinyl]glycinate | 2.7 mmol, 1.2 g | CC(C)(C)OC(=O)NC1CCN(CC1)CCNC1=NC(=CC=C1NCC(=O)OCC)OC | C22H37N5O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
catalyst | manganese dioxide | 23 mmol, 2.0 g | [O-2].[O-2].[Mn+4]
product | 1,1-Dimethylethyl (1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate | 470 mg, 43% | COC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)NC(OC(C)(C)C)=O)N1 | C20H29N5O4
